US06048864
(i) 4-Amino-2-chloro-5-cyclobutyloxy-6,7-dimethoxyquinazoline
5-Cyclobutyloxy-2,4-dichloro-6,7-dimethoxyquinazoline (300 mg, 0.0009 mol) was suspended in a saturated ethanolic ammonia solution (10 ml) and the reaction stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, resuspended in a minimum volume of diethyl ether and the resulting solid filtered off. Drying under suction gave the subtitle compound as a white solid (189 mg, 68%). Rf 0.69 (diethyl ether). 1H-NMR (CDCl3): δ=1.56 (1H, m), 1.82 (1H, m), 2.26 (2H, m), 2.42 (2H, m), 3.85 (3H, s), 3.94 (3H, s), 4.92 (1H, m), 5.82 (1H, bs), 6.94 (1H, s), 7.72 (1H, bs).

reactant | 5-Cyclobutyloxy-2,4-dichloro-6,7-dimethoxyquinazoline | 0.0009 mol, 300 mg | C1(CCC1)OC1=C2C(=NC(=NC2=CC(=C1OC)OC)Cl)Cl | C14H14Cl2N2O3
reactant | ammonia | 10 ml | N | H3N
product | 4-Amino-2-chloro-5-cyclobutyloxy-6,7-dimethoxyquinazoline | 189 mg, 68% | NC1=NC(=NC2=CC(=C(C(=C12)OC1CCC1)OC)OC)Cl | C14H16ClN3O3
